US05672697
1-(3-O-t-Butyldimethylsilyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-thymine (59)
This compound is prepared from 1-[2-deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-thymine by the same procedure used for the preparation of 3'-O-t-butyldimethylsilylthymidine.

reactant | 1-[2-deoxy-5-O-(4,4'-dimethoxytrityl)-2-fluoro-β-D-arabinofuranosyl]-thymine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C(=O)NC(=O)C(C)=C2)F)O)C=C1 | C31H31FN2O7
reactant | 3'-O-t-butyldimethylsilylthymidine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C16H28N2O5Si
product | 1-(3-O-t-Butyldimethylsilyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-thymine | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)F | C16H27FN2O5Si
